US07592373B2
4.281.a. 3-bromobiphenyl-4-ylamine
8.7 mL (76.8 mmol) of a 48% hydrogen bromide solution is added dropwise to a solution of 13.008 g (76.8 mmol) of biphenyl-4-ylamine in 60 mL of DMSO at ambient temperature and the mixture is stirred for 14 hours. Then it is heated to 100° C. for 1 hour, the mixture is then cooled and poured onto water. By the addition of ammonia solution, the reaction mixture is made alkaline and the precipitate formed is filtered off and washed with water. The purification is carried out by column chromatography on silica gel (eluant: dichloromethane). Yield: 11.3 g (60% of theory); C12H10BrNO (M=248.19); calc.: molecular ion peak (M+H)+: 248/250 (Cl); found: molecular ion peak (M+H)+: 248/250 (Cl).

reactant | hydrogen bromide | Br | BrH
reactant | biphenyl-4-ylamine | 76.8 mmol, 13.008 g | C1(=CC=C(C=C1)N)C1=CC=CC=C1 | C12H11N
reactant | ammonia | N | H3N
solvent | DMSO | 60 mL | CS(=O)C | C2H6OS
product | 3-bromobiphenyl-4-ylamine | BrC=1C=C(C=CC1N)C1=CC=CC=C1 | C12H10BrN
